US08975282B2
Step 1) 4-((6-aminopyridin-3-yl)oxy)picolinamide
To a mixture of 6-aminopyridin-3-ol (220 mg, 2 mmol) and t-BuOK (225 mg, 2.16 mmol) in DMF (2.5 mL) was added 4-chloropicolinamide (315 mg, 2 mmol). The reaction was heated to 80° C. for 5 hours, then cooled to rt and diluted with EtOAc (50 mL) and H2O (50 mL). The organic phase was concentrated in vacuo and the residue was purified by a silica gel column chromatography (DCM/CH3OH (v/v)=30/1) to give the title compound as a brown solid (230 mg, 50%).

reactant | 6-aminopyridin-3-ol | 2 mmol, 220 mg | NC1=CC=C(C=N1)O | C5H6N2O
reactant | t-BuOK | 2.16 mmol, 225 mg | CC(C)(C)[O-].[K+]
reactant | 4-chloropicolinamide | 2 mmol, 315 mg | ClC1=CC(=NC=C1)C(=O)N | C6H5ClN2O
solvent | DMF | 2.5 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | 50 mL | CCOC(=O)C | C4H8O2
solvent | H2O | 50 mL | O | H2O
product | 4-((6-aminopyridin-3-yl)oxy)picolinamide | 230 mg, 50% | NC1=CC=C(C=N1)OC1=CC(=NC=C1)C(=O)N | C11H10N4O2
